US05362733
5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-2-aminothiazolidin-4-one
A solution containing 0.58 g (0.005 mol) of 2-aminothiazolidin-4-one, 0.92 g (0.005 mol) of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.05 ml of piperidine in 5 ml of acetic acid was heated for 24 h at 100° C. The product was filtered and washed with ethanol. Yield 1.2 g (86%), mp 250° C. (decomp.).

reactant | 2-aminothiazolidin-4-one | 0.005 mol, 0.58 g | NC1SCC(N1)=O | C3H6N2OS
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.005 mol, 0.92 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-2-aminothiazolidin-4-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C1C(NC(S1)N)=O | C10H9N3O5S
